US07777047B2
ethyl 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate
A mixture of ethyl 1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (1.06 g), concentrated hydrochloric acid (1 ml) and ethanol (5 ml) was heated overnight under reflux. Water was added to the reaction mixture, and the resulting crystals were collected by filtration, washed with water, and dried. The obtained crystals were subjected to silica gel column chromatography to give the title compound (0.43 g, yield 46%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (2:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 164-165° C.

reactant | ethyl 1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 1.06 g | COCN1C(=CC2=CC=CC(=C12)N(S(=O)(=O)C=1SC=CC1)C)C(=O)OCC | C18H20N2O5S2
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | ethyl 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 0.43 g, yield 46% | CN(C=1C=CC=C2C=C(NC12)C(=O)OCC)S(=O)(=O)C=1SC=CC1 | C16H16N2O4S2
